US07405305B2
3-[5-(2-bromoethoxy)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione
Add to a solution of 3-[5-(2-hydroxyethoxy)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione (1.87 g, 4.49 mmol) in dichloromethane (30 ml), triphenylphosphine (1.41 g, 5.39 mmol) and carbon tetrabromide (1.79 g, 5.39 mmol). Stir the reaction for 15 minutes under nitrogen atmosphere. Add another 2.2 mmol of triphenylphosphine and 2.2 mmol of carbon tetrabromide and stir for 15 more minutes. Diluted with dichloromethane, wash with water, brine, dry over magnesium sulfate, filter and concentrate. Flash chromatography over silica gel (1% methanol:dichloromethane) affords the title compound as an orange solid. MS(ES+): 479.0, 481.0.

reactant | 3-[5-(2-hydroxyethoxy)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione | 4.49 mmol, 1.87 g | OCCOC=1C=C(C2=C(C=CO2)C1)C=1C(N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C)=O | C24H20N2O5
reactant | triphenylphosphine | 5.39 mmol, 1.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 5.39 mmol, 1.79 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.2 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.2 mmol | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-[5-(2-bromoethoxy)benzofur-7-yl]-1-methyl-4-(1-methyl-1H-indol-3-yl)pyrrole-2,5-dione | BrCCOC=1C=C(C2=C(C=CO2)C1)C=1C(N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C)=O | C24H19BrN2O4
